US07173046B2
Step 4: L-cyclohexylglycine tbutyl ester.
HCl (1.717 g, 6.87 mmol), HATU (2.618 g, 6.89 mmol) and diisopropylethyl amine (4.00 mL, 23.0 mmol) were added to a solution of the compound from Example 1, step 2 (1.704 g, 6.24 mmol) in anhydrous DMF (10 mL) at RT. The reaction was stirred at RT for 2.5 h. The reaction was diluted with saturated aqueous sodium bicarbonate (50 mL) and extracted with ether (150+100 mL). The organic phases were washed with water (100+50 mL), dried (MgSO4) and concentrated in vacuo to give 2.994 g of a yellow oil.

reactant | HCl | 6.87 mmol, 1.717 g | Cl | ClH
reactant | HATU | 6.89 mmol, 2.618 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 23.0 mmol, 4.00 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | L-cyclohexylglycine | 2.994 g | C1CCC(CC1)[C@@H](C(=O)O)N | C8H15NO2
